### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): flat morphisms of schemes

### PR DESCRIPTION
**Pull request by chrisflav**
... and show that `Flat` can be checked on stalks. The latter is shown more generally for any morphism property of schemes associated to a property of ring maps satisfying `RingHom.OfLocalizationPrime`.

---

- [x] depends on: #19789

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean [hunk 1]
```diff
@@ -633,6 +633,43 @@ lemma locally_of_iff (hQl : LocalizationAwayPreserves Q)
     ext X Y f
     rw [h, iff_exists_appLE_locally (P := affineLocally (Locally Q)) hQa.left hQa.respectsIso]
 
+/-- If `Q` is a property of ring maps that can be checked on prime ideals, the
+associated property of scheme morphisms can be checked on stalks. -/
+lemma of_stalkMap (hQ : OfLocalizationPrime Q) (H : ∀ x, Q (f.stalkMap x).hom) : P f := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:638]: I think we should specialize this to flat since we don't have a typeclass system for this.

Also how hard is it to get the converse?

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:638]: Done. The second point was not hard, but surprisingly annoying because of missing API.

File: Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean [hunk 2]
```diff
@@ -633,6 +633,69 @@ lemma locally_of_iff (hQl : LocalizationAwayPreserves Q)
...
+  apply hQ
+  intro P hP
+  specialize H ⟨P, hP⟩
+  rwa [hQi.arrow_mk_iso_iff (Scheme.arrowStalkMapSpecIso φ _)] at H
+
+/-- Let `Q` be a property of ring maps that is stable under localization.
+Then if the associated property of scheme morphisms holds for `f`, `Q` holds on all stalks. -/
+lemma stalkMap
+      (hQ : ∀ {R S : Type u} [CommRing R] [CommRing S] (f : R →+* S) (_ : Q f)
+        (J : Ideal S) (_ : J.IsPrime), Q (Localization.localRingHom _ J f rfl))
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:672]: We could give this a name (I don't think this follows from `RingHom.LocalizationPreserves`, since it differs by composition with a localization map), but maybe it is fine to just leave it as is for now and see if we need this more often.

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 3]
```diff
@@ -705,6 +705,27 @@ lemma resLE_appLE {U : Y.Opens} {V : X.Opens} (e : V ≤ f ⁻¹ᵁ U)
   rw [← X.presheaf.map_comp, ← X.presheaf.map_comp]
   rfl
 
+@[simp]
+lemma resLE_base_coe (x : V) : ((f.resLE U V e).base x).val = f.base x := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Restrict.lean:709]:
```suggestion
lemma val_resLE_base (x : V) : ((f.resLE U V e).base x).val = f.base x := by
```

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 4]
```diff
@@ -705,6 +705,27 @@ lemma resLE_appLE {U : Y.Opens} {V : X.Opens} (e : V ≤ f ⁻¹ᵁ U)
...
+    intro W hxW
+    simp only [Arrow.mk_right, Functor.id_obj, Arrow.mk_left, Iso.trans_hom,
+      TopCat.Presheaf.stalkCongr_hom, Arrow.mk_hom, Category.assoc, Opens.germ_stalkIso_hom_assoc,
+      TopCat.Presheaf.germ_stalkSpecializes_assoc, stalkMap_germ, app_eq_appLE, stalkMap_germ_assoc,
+      resLE_appLE, Opens.germ_stalkIso_hom]
+    have : V.ι ''ᵁ resLE f U V e ⁻¹ᵁ W ≤ f ⁻¹ᵁ U.ι ''ᵁ W := by
+      simp [resLE_preimage, image_preimage_eq_opensRange_inter]
+    rw [← X.presheaf.germ_res (homOfLE this)]
+    · simp
+    · exact ⟨x, hxW, rfl⟩
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Restrict.lean:727]:
```suggestion
    dsimp
    rw [Category.assoc, ← Iso.eq_inv_comp, ← Category.assoc, ← Iso.comp_inv_eq,
      Opens.stalkIso_inv, Opens.stalkIso_inv, ← stalkMap_comp,
      stalkMap_congr_hom _ _ (resLE_comp_ι f e), stalkMap_comp]
    rfl
```
If you add the lemma 
```

lemma stalkIso_inv {X : Scheme.{u}} (U : X.Opens) (x : U) :
    (U.stalkIso x).inv = U.ι.stalkMap x := by
  rw [← Category.comp_id (U.stalkIso x).inv, Iso.inv_comp_eq]
  apply TopCat.Presheaf.stalk_hom_ext
  intro W hxW
  simp only [Category.comp_id, germ_stalkIso_hom_assoc]
  convert (Scheme.stalkMap_germ U.ι (U.ι ''ᵁ W) x ⟨_, hxW, rfl⟩).symm
  refine (U.toScheme.presheaf.germ_res (homOfLE ?_) _ _).symm
  exact (Set.preimage_image_eq _ Subtype.val_injective).le
```

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 5]
```diff
@@ -544,6 +544,12 @@ variable (φ) in
 @[simp] lemma Spec.preimage_map : Spec.preimage (Spec.map φ) = φ :=
   Spec.map_injective (Spec.map_preimage (Spec.map φ))
 
+/-- Useful for replacing `f` by `Spec.map φ` everywhere in proofs. -/
+lemma Spec.exists_preimage_map {R S : CommRingCat} (f : Spec S ⟶ Spec R) :
+    ∃ φ, f = Spec.map φ := by
+  use Spec.preimage f
+  simp
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:551]:
```suggestion
lemma Spec.map_surjective {R S : CommRingCat} :
    Function.Surjective (Spec.map : (R ⟶ S) → _) := by
  intro f
  use Spec.preimage f
  simp
```
I think this is defeq but has the potential to unlock dot notations for some lemmas.

File: Mathlib/AlgebraicGeometry/Restrict.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Restrict.lean]: Thanks, fixed one more `@[simp]` lemma to eliminate the terminating `rfl`.

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 6]
```diff
@@ -761,6 +761,14 @@ lemma stalkMap_germ_apply (U : Y.Opens) (x : X) (hx : f.base x ∈ U) (y) :
       X.presheaf.germ (f ⁻¹ᵁ U) x hx (f.app U y) :=
   PresheafedSpace.stalkMap_germ_apply f.toPshHom U x hx y
 
+/-- If `x` and `y` are inseparable, the stalk maps are isomorphic. -/
+noncomputable def arrowStalkMapIsoOfInseparable {x y : X}
+    (h : Inseparable x y) : Arrow.mk (f.stalkMap x) ≅ Arrow.mk (f.stalkMap y) :=
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Scheme.lean:766]: I think using `x = y` here makes it easier to use. Since the underlying space of a scheme is sober, no generality is lost.

File: Mathlib/AlgebraicGeometry/Morphisms/Flat.lean [hunk 7]
```diff
@@ -0,0 +1,74 @@
...
+
+universe v u
+
+namespace AlgebraicGeometry
+
+variable {X Y : Scheme.{u}} (f : X ⟶ Y)
+
+/-- A morphism of schemes `f : X ⟶ Y` is flat if for each affine `U ⊆ Y` and
+`V ⊆ f ⁻¹' U`, the induced map `Γ(Y, U) ⟶ Γ(X, V)` is flat.
+-/
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Flat.lean:31]: Can you point to `iff_flat_stalkMap` here, as that is the more common definition in the literature? (also in the module docstring)

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge
